US05250543
a) Preparation of 1-(2,4,6-trimethoxybenzoyl)-3-chloropropane
To a solution of 67.2 g (0.400 mole) of 1,3,5-trimethoxybenzene and 61 g (0.432 mole) of chloro-4 butyryl chloride in 300 ml of benzene, maintained at +5° C., a solution of 121 g (0.464 mole) of tin tetrachloride in 150 ml of benzene is added over 3 hrs 30 mins. It is agitated for 4 hrs at room temperature and the reaction mixture is rapidly poured onto 500 ml of iced water and 100 ml of 12N hydrochloric acid. The organic phase is decanted, washed with water and dried with anhydrous sodium sulphate. The oily residue is caked by washing with hexane, giving 97.2 g of a light grey powder.

reactant | 1,3,5-trimethoxybenzene | 0.400 mole, 67.2 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | tin tetrachloride | 0.464 mole, 121 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | 12N, 100 ml | Cl | ClH
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,4,6-trimethoxybenzoyl)-3-chloropropane | 97.2 g, Yield=89.2% | COC1=C(C(=O)CCCCl)C(=CC(=C1)OC)OC | C13H17ClO4
